US08431695B2
Step 2: Preparation of 2-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester (trans)
A solution of 2-[(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-hydroxy-methyl]-cyclopropanecarboxylic acid ethyl ester (1.75 g, 6.3 mmol) in dichloromethane (17.5 mL) was added dropwise into a mixture of triethylsilane (3 g, 25 mmol) and TFA (17.5 mL) in ice water bath. It was stirred at rt for overnight. 2N sodium carbonate solution (10 mL) was added and organic layer was separated, dried and concentrated. The residue was purified by Biotage® to give desired product 0.43 g (26). 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.75 (bs, 2 H), 6.80 (s, 1 H), 6.60 (m, 1 H), 4.0 (m, 2 H), 2.9 (d, 2 H), 1.5 (m, 2 H), 1.2 (t, 3 H), 1.0 (m, 2 H); ES-MS m/z 261.07 [M+H]+, HPLC RT (min) 2.03.

reactant | 2-[(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-hydroxy-methyl]-cyclopropanecarboxylic acid ethyl ester | 6.3 mmol, 1.75 g | C(C)OC(=O)C1C(C1)C(O)C1=CC=C2C(=NC=NN21)N | C13H16N4O3
reactant | triethylsilane | 25 mmol, 3 g | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 17.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium carbonate | 2N, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 17.5 mL | ClCCl | CH2Cl2
product | 2-(4-Amino-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester | 0.43 g | C(C)OC(=O)C1C(C1)CC1=CC=C2C(=NC=NN21)N | C13H16N4O2
